US07871998B2
[(N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl)amino](diphenyl)acetic acid
TBTU (0.016 g, 0.050 mmol) was added to a solution of N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (0.020 g, 0.037 mmol) and NMM (0.012 ml, 0.109 mmol) in DMF (2 ml) at 30° C. After 30 min, 2,2-diphenylglycine (0.009 g, 0.037 mmol, 98%) was added and the mixture was stirred at 30° C. for 2.5 h. The reaction was quenched with water (0.2 ml) and the mixture was diluted with MeOH (2 ml). NaBH4 (0.020 g, 0.529 mmol) was added and the mixture was stirred for 10 min. Ammonium acetate buffer (0.1M, 3 ml) was added and most of the methanol was removed under reduced pressure. The remaining solution was purified by preparative HPLC, using a gradient of 20-50% MeCN in 0.1M ammonium acetate buffer as eluent. After freeze-drying, the title compound (0.012 g, 44% yield) was obtained as a white solid. M/z: 752.0. 1H NMR (DMSO, 400 MHz): δ 2.83-2.95 (m, 2H), 3.75 (d, 2H), 4.24-4.28 (m, 1H), 4.54 (s, 1H), 4.68-4.75 (m, 1H), 5.02-5.06 (m, 1H), 6.95-7.03 (m, 2H), 7.04-7.38 (m, 20H), 8.43-8.51 (m, 1H), 8.90 (s, 1H).

reactant | TBTU | 0.050 mmol, 0.016 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.037 mmol, 0.020 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C27H22F2N2O6S
reactant | NMM | 0.109 mmol, 0.012 ml | CN1CCOCC1 | C5H11NO
reactant | 2,2-diphenylglycine | 0.037 mmol, 0.009 g | C1(=CC=CC=C1)C(N)(C(=O)O)C1=CC=CC=C1 | C14H13NO2
reactant | NaBH4 | 0.529 mmol, 0.020 g | [BH4-].[Na+]
reactant | Ammonium acetate | 0.1M, 3 ml | C(C)(=O)[O-].[NH4+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | [(N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl)amino](diphenyl)acetic acid | 0.012 g, 44% yield | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)NC(C(=O)O)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C41H35F2N3O7S
